US08048897B2
(6) Synthesis of (4-Cyclopropylphenyl)-[3-((1R,2S,3S,4R,5R)-2,3,4-trisbenzyloxy-5-benzyloxymethylcyclo-hexyloxy)pyridin-4-yl]methanol
Sodium borohydride (40 mg, 1.06 mmol) was added to a solution of (4-cyclo-propylphenyl)-[3-((1R,2S,3S,4R,5R)-2,3,4-trisbenzyloxy-5-benzyloxymethylcyclohexyloxy)pyridin-4-yl]methanone (0.20 g, 0.26 mmol) in THF (1.37 mL) and water (0.67 mL) under cooling with ice and the reaction mixture was stirred at room temperature for 14.5 hours. To the reaction mixture, THF was added, and concentrated sulfuric acid (0.2 mL) was added thereto under cooling with ice and the reaction mixture was stirred for 10 minutes. To the obtained reaction mixture was added a saturated sodium hydrogencarbonate aqueous solution and the mixture was stirred at room temperature for 10 minutes. The resulting mixture was extracted with ethyl acetate and the organic layer was dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (3:2)] to obtain the title product (0.20 g, 100%) as a diastereomeric mixture.

reactant | Sodium borohydride | 1.06 mmol, 40 mg | [BH4-].[Na+]
reactant | (4-cyclo-propylphenyl)-[3-((1R,2S,3S,4R,5R)-2,3,4-trisbenzyloxy-5-benzyloxymethylcyclohexyloxy)pyridin-4-yl]methanone | 0.26 mmol, 0.20 g | C1(CC1)C1=CC=C(C=C1)C(=O)C1=C(C=NC=C1)O[C@H]1[C@@H]([C@H]([C@@H]([C@H](C1)COCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C50H49NO6
reactant | sulfuric acid | 0.2 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | THF | 1.37 mL | C1CCOC1 | C4H8O
solvent | water | 0.67 mL | O | H2O
product | (4-Cyclopropylphenyl)-[3-((1R,2S,3S,4R,5R)-2,3,4-trisbenzyloxy-5-benzyloxymethylcyclo-hexyloxy)pyridin-4-yl]methanol | 0.20 g, 100% | C1(CC1)C1=CC=C(C=C1)C(O)C1=C(C=NC=C1)O[C@H]1[C@@H]([C@H]([C@@H]([C@H](C1)COCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C50H51NO6
